US07074819B2
Step 7) Synthesis of 4-(9-hydroxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylthiochroman
4-[9-(t-Butyldimethylsilyloxy)-1-nonynyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylthiochroman (1.43 g, 2.27 mmol) was dissolved in ethanol (100 ml) and tetrahydrofuran (10 ml), and 20% palladium hydroxide on carbon (500 mg) which had been washed with ethanol was added thereto. The reaction solution was stirred for 1 day under hydrogen (atmospheric pressure). Ethyl acetate was added to the reaction mixture, which was then filtered and concentrated. The concentrate was dissolved in dichloromethane (50 ml) and 1N-sodium hydroxide (2 ml), and tetra-n-butylammonium chloride (556 mg, 2 mmol) was added thereto at room temperature. To the reaction mixture was added dropwise methoxymethyl chloride (0.22 ml, 3 mmol) at the same temperature, which was then stirred for 2 hours. Water was added, and the resulting solution was extracted with ethyl acetate. Then, the organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to flash chromatography on silica gel (n-hexane:ethyl acetate=1:1) to give the title compound (855 mg, yield 75%) as a white solid.

reactant | 4-[9-(t-Butyldimethylsilyloxy)-1-nonynyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylthiochroman | 2.27 mmol, 1.43 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#CC1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C35H52O5SSi
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | methoxymethyl chloride | 3 mmol, 0.22 ml | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | tetra-n-butylammonium chloride | 2 mmol, 556 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-(9-hydroxynonyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylthiochroman | 855 mg, yield 75% | OCCCCCCCCCC1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C29H42O5S
